Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I don't like myself"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per Dr. ___ ___ ED Initial Psychiatry Consult note, 
summarized here and updated based on admission interview:
  This is pt's first contact with mental health. She moved to ___ 
from ___ ___ yrs ago, after marrying her husband who is in 
the ___. She currently works as a ___ and lives with her 
husband's parents while he is deployed.
  Ms. ___ describes having intermittent periods of sadness, 
worthlessness, poor appetite, and low energy since high school. 
She states "I don't like anything about myself from head to 
toe." She also reports difficulty sleeping and disturbing dreams 
about committing suicide. Over the last several months, she has 
noticed worsening sadness, concentration, and suicidal ideation. 
She also
reports feeling more anxious about her husband's ___ 
during his deployment.
  Between bouts of feeling "down", she has had periods of 
increased energy, elevated mood, and decreased need for sleep. 
She felt like she was "suffocating inside" when sedentary at 
home, and she would fill her time with activities such as 2 jobs 
while also attending school. She estimates that she feels "down"
75% of the time, and "up" 25% of the time. The last time she 
felt "up" was the end of ___. She has been feeling "down" since 
___.
  Ms. ___ depression has worsened over the past few years, and 
she began to have active suicidal thoughts ___ years ago. She 
reports acting on suicidal thoughts once by walking along a busy 
beachside road at night while considering walking into traffic 
(she did not). She reports a current plan to take sleeping pills 
and then fall asleep in a ___ freezer at the kitchen where 
she works. She prefers this method so that her organs would be 
well preserved for donation. She has written a will, which she 
has with her on her phone. She has not shown anyone the will, 
but in it she details how she would like her organs to be 
donated, and she asks that her loved ones not feel sad. She also 
has plans for her cat and dog to have new homes with friends and 
family.
  Asked if she is having thoughts of hurting herself still while 
inpatient, she tearfully nods yes.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations: none
Current treaters and treatment: none
Medication and ECT trials: none
___: none
Harm to others: none
Access to weapons: not currently, but there is a hand gun in the
house when her husband is home

PAST MEDICAL HISTORY:
Peptic ulcer
Seasonal allergies

MEDICATIONS:
Zyrtec (Cetirizine) 10mg PO QHS
Fluticasone propionate nasal spray daily
Melatonin PRN sleep (also takes allergy medicine at night for
sleep)

ALLERGIES: 
Peanuts- throat swelling
 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Per Dr ___:
"Possible bipolar disorder on paternal side--father, paternal
grandfather, two cousins. Her two cousins are currently 
receiving
treatment and are doing well."

 
Physical Exam:
Exam on Admission:

VITAL SIGNS:
T 98.2, HR 68, BP 114/80, RR 20, SpO2 97% on RA

EXAM:

General: NAD. Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 

Neurological:  
 station and gait: normal
 tone and strength: normal
 cranial nerves: ___ grossly intact
 abnormal movements: none
 frontal release: none

Cognition: 
 Wakefulness/alertness: alert
 Attention (digit span, MOYB): no difficulty stating days of 
week
backwards
 Orientation: AOx3
 Memory: short- and ___ memory intact
 Fund of knowledge: above average
 Calculations: intact ($1.75 = 4 quarters)
 Abstraction: Train/bike = moves people; Ruler/Watch = have
numbers
 Speech: organized, normal rate with above average verbage
 Language: fluent
 
Mental Status:
 Appearance: well ___
 Behavior: appropriate
 Mood and Affect: alternately tearful, serious, and laughing
 Thought process / associations: linear, intact associations
 Thought Content: +SI with plans as per HPI, denies SA/AVH
 Judgment and Insight: impaired judgment and fair insight

==========

Exam on Discharge

PHYSICAL EXAMINATION:
VS: T: 98.3 , BP: 103/67 , HR: 63 , RR: 18 , O2 Sat: 99%
General: NAD. Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 

NEUROLOGIC EXAMINATION:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation:
PERRLA
-Visual fields: full
-EOM: full
-Facial sensation to light touch in all 3 divisions: intact
-Facial symmetry on eye closure and smile: intact & symmetric
-Hearing bilaterally to rubbing fingers: intact
-Phonation: normal
-Shoulder shrug & head turn: normal bilaterally
-Tongue: midline, no atrophy
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. 
Strength: full power ___ throughout. 
Coordination: Able to manipulate objects across midline.
Sensation: Intact to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.

MSE:
- Appearance: Young Asian woman appearing stated age, wearing 
oversized sweater and gray legging, calmly sitting in chair, 
alert
- Psychomotor: No PMR/PMA
- Behavior/Attitude: Cooperative, appropriate eye contact
- Speech: Normal rate, volume, and amount.
- Mood: "A little tired"
- Affect: Euthymic, appropriately smiling, ___ 
- Thought Process: Linear and goal directed.  No loosening of
associations, no tangentiality.  Does not appear to be 
responding
to internal stimuli.
- Thought Content: Denies SI, HI, and AVH. No overt paranoia or
delusions.
- Insight: fair
- Judgment: fair

COGNITION:
- Sensorium: Awake and alert
- Orientation: Correctly states date is ___
- Attention/concentration: MOTYB intact
- Memory: intact to history; ___ registration and ___ on 
___
recall
- Fund of knowledge: States last 3 presidents. 
- Calculations: $1.75 = 7 quarters
- Abstraction: apple/orange - same "fruits" different - "one has 
pulp"
- Proverb: the grass is always greener on the other side = 
Patient not aware of idiom, ___ to language

 
Pertinent Results:
___ ___ 
___ Plt ___
___ ___ Im 
___ 
___
___ Plt ___
___ ___ 
___
___ ___ this
___ ___ 
___

URINE
___ ___ Sp ___
___ ___ 
___
___ ___
___ ___
___ ___ 
___
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, Ms. ___ signed a conditional voluntary agreement 
(Section 10 & 11) and that legal status remained in place 
throughout admission.  Ms. ___ was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Depression, NOS, likely bipolar II
On interview in the unit, Ms. ___ appeared acutely depressed, 
tearful on exam and endorsing depressed mood, low ___, 
anhedonia, difficulty concentrating, guilt, and suicidal 
ideation with plan to take sleeping pills and go into a ___ 
freezer so that her organs could benefit other people. She was 
not successful only because she did not have the keys to the 
restaurant. Ms. ___ was cheerful and cooperative throughout 
hospital course, taking medications and maintaining adequate 
behavioral control. 

Ms. ___ also endorsed a history of fluctuating moods that lasted 
for several months at a time, with periods of elevated mood, 
sleeping only ___ hours without feeling tired, irritability, and 
grandiosity. 

Given this history, it is likely that Ms. ___ has bipolar 
spectrum disorder, currently in a depressive phase. Due to her 
age, lack of medical comorbidities, and presentation+history 
consistent with a likely bipolar depression, she was started on 
Lamictal for mood stabilization due to ___ profile. Ms. 
___ tolerated the medication well with no experienced side 
effects [no skin rash]. 

FOR OUTPATIENT PSYCHIATRIST: Ms. ___ was started on lamictal 25 
mg QHS on ___, please consider titrating dosage up after 2 
weeks [___]. 

#) r/o ___ stress disorder
Ms. ___ endorsed a chronic history of having difficulty sleeping 
due to experiencing nightmares where she was uncertain if she 
were dreaming or awake. In addition, she endorsed having 
childhood trauma [physical/sexual] which she would frequently 
ruminate about, also endorsing having negative beliefs about 
herself "I don't like myself." and presenting with anxious 
features. 

No additional psychiatric medications were started during 
hospitalization, though this can be further addressed in the 
outpatient setting. 

On discharge, Ms. ___ stated she would be safe when discharged, 
and was offered information in ___ about bipolar disorder 
and PTSD. Ms. ___ agreed that she would reach out to call ___ if 
she were to feel unsafe or suicidal. 

3. SUBSTANCE USE DISORDERS:
Ms. ___ does not have any substance use disorders, and therefore 
did not require any counseling or treatment in this regard.

4. MEDICAL
Ms. ___ was medically cleared in the ED; no acute  medical 
issues prevented admission to ___ 4. 

#Seasonal allergies: Ms. ___ was continued on her home 
medications of Zyrtec 10mg PO QHS and flonase nasal spray ___ 
sprays per nostril daily. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Ms. ___ was encouraged to participate in the various groups and 
milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. Ms. ___ often attended 
these groups.  Ms. ___ was visible on the milieu and 
appropriately interacted with staff and peers.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Ms. ___ did not have either an outpatient psychiatrist or 
therapist while admitted on Deac 4, therefore there were no 
outside providers to be contacted.  Ms. ___ was referred to both 
an outpatient psychiatrist and therapist upon discharge.

Ms. ___ gave verbal and written permission for the team to 
contact her ___- law, ___, who was also given an 
update on Ms. ___ progress while admitted and discharge plan 
and given a phone meeting with Ms. ___ also 
present.
On the discharge day, meeting w pt and her father in law was 
held. Pt and father in law asked good questions about pts 
condition, medications and recommended follow up.
Pt and relatives were also educated about available resources. 
Specifically, we talked about NAMI as source of information and 
support group. 

6. INFORMED CONSENT: 
*Medication: Lamictal (lamotrigine)
---Benefits: Mood stabilization
---Adverse effects: Benign rash (10%), serious rash = 
___ syndrome (rare), sedation (unusual), 
blurred/double vision, dizziness, ataxia, headache, tremor, 
insomnia, poor coordination, fatigue, nausea, vomiting, 
dyspepsia, abdominal pain, constipation, weight gain (unusual), 
rhinitis, toxic epidermal necrolysis (rare), blood dyscrasias 
(rare), aseptic meningitis (rare), withdrawal seizures upon 
abrupt withdrawal.

Ms. ___ was informed of alternative treatments, the consequences 
of no treatment, and the expected duration of treatment. She 
appeared to appreciate the information conveyed in the consent 
process by asking appropriate questions, which were answered by 
the treatment team, and expressing understanding of the 
potential risks and benefits (see above).  Prior to starting 
treatment, the team also discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment.  Ms. ___ 
understood the above and consented to begin the medication.

7. RISK ASSESSMENT
On presentation, Ms. ___ was evaluated and felt to be at an 
increased risk of harm to herself given her active suicidal 
ideation with plan.  Ms. ___ static risk factors noted at that 
time include history of abuse/trauma, family history of mental 
illness. The modifiable risk factors identified were as such: 
suicidal ideation with plan,impulsiveness, recklessness, 
impulsivity, poorly controlled mental illness, lack of 
engagement with outpatient treatment, no established outpatient 
providers,  hopelessness, severe anxiety/panic attacks, 
insomnia, decreased ___.  These modifiable risk factors 
were addressed with acute stabilization in a safe environment on 
a locked inpatient unit, psychopharmacologic adjustments, 
psychotherapeutic interventions (OT groups, SW groups, 
individual therapy meetings with psychiatrists), and presence on 
a social milieu environment.  Ms. ___ is being discharged with 
many protective factors, including female gender, sense of 
responsibility to family, married, employment, ___ 
behavior, strong social supports, no chronic substance use,.  
Overall, based on the totality of our assessment at this time, 
Ms. ___ is not at an acutely elevated risk of harm to self nor 
danger to others. 

Our prognosis of this patient is guarded.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cetirizine 10 mg PO DAILY 
2. Fluticasone Propionate NASAL ___ SPRY NU DAILY:PRN allergies, 
nasal drip 

 
Discharge Medications:
1.  LamoTRIgine 25 mg PO QHS 
RX *lamotrigine [Lamictal] 25 mg 1 tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0 
2.  Cetirizine 10 mg PO QHS  
3.  Fluticasone Propionate NASAL ___ SPRY NU DAILY allergies, 
nasal drip  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar II disorder, depressed with anxious distress
rule out PTSD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized for suicidal ideation. 

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___